US08349827B2
Step 2: Preparation of N-(3-chlorobenzyl)-9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-amine
A mixture of (E)-6-((dimethylamino)methylene)-6,11-dihydro-5H-dipyrido[2,3-b :4′,3′-f]azepin-5-one (0.303 g), 1-(3-chlorobenzyl)guanidinium chloride (0.500 g) and sodium ethoxide (21% solution in ethanol) (0.5 mL) in absolute ethanol (15 mL) was refluxed in for 3 hours. The reaction mixture was cooled to room temperature and poured into ethyl acetate (150 mL), washed with water (200 mL), dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure to yield a brown solid. The crude product was purified by flash chromatography (SiO2, gradient 100% ethyl acetate to 5% methanol in dichloromethane) to give the pure desired product, N-(3-chlorobenzyl)-9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-amine as a bright yellow solid (0.134 g). M.p.=195-196° C.; 1H NMR (DMSO-d6) 400 MHz δ 8.46-8.07 (m, 7H), 7.42-7.28 (m, 4H), 7.09 (brs, 1H), 4.58 (s, 2H); LCMS (M+H)=387.

reactant | (E)-6-((dimethylamino)methylene)-6,11-dihydro-5H-dipyrido[2,3-b :4′,3′-f]azepin-5-one | 0.303 g | CN(C)\C=C/1\C(C2=C(NC3=C1C=CN=C3)N=CC=C2)=O | C15H14N4O
reactant | 1-(3-chlorobenzyl)guanidinium chloride | 0.500 g | [Cl-].ClC=1C=C(CNC(=[NH2+])N)C=CC1
reactant | sodium ethoxide | 0.5 mL | [O-]CC.[Na+]
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-(3-chlorobenzyl)-9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-amine | 0.134 g | ClC=1C=C(CNC=2N=CC3=C(C4=C(NC5=C3C=CN=C5)N=CC=C4)N2)C=CC1 | C21H15ClN6
